US06359138B1
A solution of (1RS,2RS)and (1RS,2SR)-2-[4-benzyloxy-4-(4-methyl-benzyl)-piperidine-1-ylmethyl]-indan-1,5-diol (0.83 g, 1.82 mmol) in MeOH (100 ml) and Pd/C 10% (100 mg) was stirred vigorously under a hydrogen atmosphere for 1 hr at ambient temperature. After removal of the catalyst and evaporation of the solvent the title compound (1RS,2RS) and (1RS, 2SR)-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidine-1-ylmethyl]-indan-1,5-diol (664 mg, 1.81 mmol, 99%) was afforded as a white amorphous foam, (1:1) mixture of diastereoisomers, MS m/e=368.2 (M+H+).

reactant | (1RS,2SR)-2-[4-benzyloxy-4-(4-methyl-benzyl)-piperidine-1-ylmethyl]-indan-1,5-diol | 1.82 mmol, 0.83 g | C(C1=CC=CC=C1)OC1(CCN(CC1)CC1C(C2=CC=C(C=C2C1)O)O)CC1=CC=C(C=C1)C | C30H35NO3
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (1RS, 2SR)-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidine-1-ylmethyl]-indan-1,5-diol | 1.81 mmol, 664 mg, 99% | OC1(CCN(CC1)CC1C(C2=CC=C(C=C2C1)O)O)CC1=CC=C(C=C1)C | C23H29NO3
